US09126931B2
8-Methoxy-6,6-dimethyl-11-oxo-9-vinyl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
9-Bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound E3-1-1, 50 mg, 0.13 mmol), [1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloride dichloromethane complex (1:1) (10.3 mg, 0.1 eq.), TEA (53 μl, 3 eq.) and potassium vinyltrifluoroborate (51 mg, 3 eq.) were dissolved in n-propanol and the mixture was stirred at 60° C. for 5 days. The reaction solution was added to water and then extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (brown powder, 25 mg, 19%).

reactant | 9-Bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.13 mmol, 50 mg | BrC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1OC | C20H15BrN2O2
reactant | potassium vinyltrifluoroborate | 51 mg, 3 eq. | C(=C)[B-](F)(F)F.[K+]
reactant | water | O | H2O
solvent | n-propanol | C(CC)O | C3H8O
product | 8-Methoxy-6,6-dimethyl-11-oxo-9-vinyl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 25 mg, 19% | COC=1C(=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1)C=C | C22H18N2O2
